US05476847
To a solution of 2-naphthyl triflate (90 g, 326 mmol) in DMF (240 ml), add triphenylphosphine (9.6 g, 36.6 mmol), vinyl acetate (149 g, 1862 mmol) and palladium acetate (3.8 g, 17 mmol). Reflux the reaction mixture for 1 h, then quench by addition of sat'd NaHCO3 solution. Extract the mixture with Et2O, dry and concentrate. Purify the residue by chromatography on silica gel (5% EtOAc in hexane) to obtain 35 g (165 mmol, 51%) 2-(2-naphthyl)vinyl acetate.

reactant | 2-naphthyl triflate | 326 mmol, 90 g | O(S(=O)(=O)C(F)(F)F)C1=CC2=CC=CC=C2C=C1 | C11H7F3O3S
reactant | triphenylphosphine | 36.6 mmol, 9.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | vinyl acetate | 1862 mmol, 149 g | C(C)(=O)OC=C | C4H6O2
solvent | DMF | 240 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 17 mmol, 3.8 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(2-naphthyl)vinyl acetate | 165 mmol, 35 g, 51% | C(C)(=O)OC=CC1=CC2=CC=CC=C2C=C1 | C14H12O2
